US06875765B2
To a room temperature CH2Cl2 solution (50 mL) of 2-benzyloxy-4-nitro-benzenesulfonyl chloride from Route J (2.62 g, 8.0 mmol) was added (S)-3-amino-succinamic acid tert-butyl ester (1.50 g, 8.0 mmol) and pyridine (2.60 mL). The reaction mixture was allowed to stir for 12 h at room temperature. The reaction was then diluted with ethyl acetate (200 mL) and washed with 5% citric acid and then saturated NaHCO3. The organic phase was dried (MgSO4), and then the solvent was removed under vacuum. The resulting crude product was purified using silica gel flash chromatography (40% hexanes in EtOAc). (S)-3-(2-Benzyloxy-4-nitro-benzenesulfonylamino)-succinamic acid tert-butyl ester was obtained in 43% yield (1.66 g) as an off white foam. MS (APCI) m/z 478.3 (M−1).

reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
reactant | 2-benzyloxy-4-nitro-benzenesulfonyl chloride | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C13H10ClNO5S
reactant | (S)-3-amino-succinamic acid tert-butyl ester | 8.0 mmol, 1.50 g | C(C)(C)(C)OC(C[C@@H](C(=O)N)N)=O | C8H16N2O3
reactant | pyridine | 2.60 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | (S)-3-(2-Benzyloxy-4-nitro-benzenesulfonylamino)-succinamic acid tert-butyl ester | 43% yield | C(C)(C)(C)OC(C[C@@H](C(=O)N)NS(=O)(=O)C1=C(C=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C21H25N3O8S
